US07851626B2
N-[2-(4-{(4S,5R)-4,5-Bis-(4-chloro-phenyl)-2-[4-(cyano-dimethyl-methyl)-2-ethoxy-phenyl]-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl}-piperazin-1-yl)-ethyl]-methanesulfonamide
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-[4-(cyano-dimethyl-methyl)-2-ethoxy-phenyl]-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with N-(2-piperazin-1-yl-ethyl)-methanesulfonamide dihydrochloride (prepared as described in Fotouhi, N. et al. WO 2005110996) to give the title compound as a racemic mixture. The enantiomers were then separated by supercritical fluid chromatography (Berger Instrument Multi-Gram II, Daicel ChiralPak OD-H 3×25 cm, 35° C. at 100 bar, eluting with 35% methanol in carbon dioxide). LR-MS: 739.3 [(M+H)+]

reactant | rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-[4-(cyano-dimethyl-methyl)-2-ethoxy-phenyl]-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride | ClC1=CC=C(C=C1)C1(N=C(N(C1(C)C1=CC=C(C=C1)Cl)C(=O)Cl)C1=C(C=C(C=C1)C(C)(C)C#N)OCC)C | C30H28Cl3N3O2
reactant | N-(2-piperazin-1-yl-ethyl)-methanesulfonamide dihydrochloride | Cl.Cl.N1(CCNCC1)CCNS(=O)(=O)C
product | N-[2-(4-{(4S,5R)-4,5-Bis-(4-chloro-phenyl)-2-[4-(cyano-dimethyl-methyl)-2-ethoxy-phenyl]-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl}-piperazin-1-yl)-ethyl]-methanesulfonamide | ClC1=CC=C(C=C1)[C@@]1(N=C(N([C@]1(C)C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)CCNS(=O)(=O)C)C1=C(C=C(C=C1)C(C)(C)C#N)OCC)C | C37H44Cl2N6O4S
